US08685974B2
To a solution of 4-[3-(5-chloro-2-thienyl)-1H-pyrazol-4-yl]-2-(methylsulfanyl)pyrimidin (1 eq, 16.2 mmol) in 120 mL N,N-dimethylformamide were added 2-iodopropane (1.5 eq, 24.3 mmol) and cesium carbonate (1.1 eq, 17.8 mmol). The reaction mixture was stirred at room temperature for 4 h and the solvent was then evaporated. The residue was diluted with water and dichloromethane. The layers were separated and the aqueous layer was extracted three times with dichloromethane. The combined organic extracts were dried over MgSO4 filtered and concentrated. The residue was purified by chromatography on silica gel (dichloromethane) to afford 4.2 g of 4-[3-(5-chloro-2-thienyl)-1-isopropyl-1H-pyrazol-4-yl]-2-(methylsulfanyl)pyrimidin (70% yield).

reactant | 4-[3-(5-chloro-2-thienyl)-1H-pyrazol-4-yl]-2-(methylsulfanyl)pyrimidin | 16.2 mmol, 1 eq | ClC1=CC=C(S1)C1=NNC=C1C1=NC(=NC=C1)SC | C12H9ClN4S2
reactant | 2-iodopropane | 24.3 mmol, 1.5 eq | IC(C)C | C3H7I
reactant | cesium carbonate | 17.8 mmol, 1.1 eq | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
product | 4-[3-(5-chloro-2-thienyl)-1-isopropyl-1H-pyrazol-4-yl]-2-(methylsulfanyl)pyrimidin | 4.2 g, 70% yield | ClC1=CC=C(S1)C1=NN(C=C1C1=NC(=NC=C1)SC)C(C)C | C15H15ClN4S2
